* F:\Daten\GitHub\pro4e\Workspace\Julian Jeisy\Recherche\Mikrophonverstärker\mikrophonverstärker.wxsch
*#SIMETRIX
X1 C3_P C1_P VCC 0 X1_out OPA172 pinnames: inp inn vsp vsn out
V1 R1_N 0 5 Sin(0 1m 1k 0 0)
V2 VCC 0 5
R1 VCC R1_N 5.6k
R2 X1_out C1_P 68k
R3 VCC C3_P 100k
R4 C3_P 0 100k
R5 VOUT 0 10k
C1 C1_P R1_N 4.7u   
C2 X1_out C1_P 15p   
C3 C3_P 0 3.3u   
C4 VOUT X1_out 3.3u   
.TRAN 5m

