* D:\Daten\GitHub\pro4e\Workspace\Julian Jeisy\Recherche\Mikrophonverstärker\mikrophonverstärker.wxsch
*#SIMETRIX
X2 C3_P C1_P VCC 0 X2_out LMV796 pinnames: inp inn vsp vsn out
V2 VCC 0 5
R1 VCC R1_N 5.6k
R2 X2_out C1_P 68k
R3 VCC C3_P 100k
R4 C3_P 0 100k
R5 C4_P 0 10k
I1 R1_N 0 16u AC 1 0
C1 C1_P R1_N 330n   
C2 X2_out C1_P 100p   
C3 C3_P 0 2.2u   
C4 C4_P X2_out 33n   
.GRAPH C4_P curveLabel= VOUT nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false PROBEREF=Probe1  
*.TRAN 0 5m 0 10u
.AC DEC 100 1 500k

