* D:\Daten\GitHub\pro4e\Workspace\Julian Jeisy\Recherche\Mikrophonverstärker\mikrophonverstärker.wxsch
*#SIMETRIX
V1 V1_P 0 3.3
X2 C3_P C1_P VCC 0 X2_out LMV796 pinnames: inp inn vsp vsn out
V2 VCC 0 5
R1 VCC R1_N 5.6k
R2 X2_out C1_P 68k
R3 VCC C3_P 100k
R4 C3_P 0 100k
R5 R6_N 0 100k
R6 V1_P R6_N 100k
I1 R1_N 0 16u AC 1 0 Sin(0 16u 1k 0 0)
C1 C1_P R1_N 330n   
C2 X2_out C1_P 100p   
C3 C3_P 0 2.2u   
C4 R6_N X2_out 33n   
.GRAPH R6_N curveLabel= VOUT nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false PROBEREF=Probe1  
.GRAPH R1_N curveLabel= I1-pos nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false PROBEREF=Probe2  
.TRAN 0 5m 0 10u
*.AC DEC 100 1 500k

